US09289759B2
Preparation of 2-chloro-5-tert-butyl-1,3-dimethylbenzene
In a 500 mL round bottom flask 4.50 g of 2-bromo-5-tert-butyl-1,3-dimethylbenzene (18.6 mmol) and 9.50 g of NiCl2.6H2O (40.0 mmol) were added. Then 30 mL of N,N-dimethylformamide was added to the flask, giving a blue-green solution. The flask was fitted with a condenser and was left to reflux with stirring. After 0.5 hours the solution was dark blue. After refluxing for 5 days the mixture was cooled to rt and then diluted with 25 mL of 2 M HCl. The aqueous phase was extracted with 40 mL of ethyl acetate. The volatiles were removed from the extract by evaporation to give a white solid. (91% conversion to the title product) All of the solids were dissolved in 25 mL of N,N-dimethylformamide and the solution was placed in a 125 mL round bottom flask. Then 5.1 g of NiCl2.6H2O (21.5 mmol) was added to the flask. The flask was fitted with a condenser and was left to reflux with stirring. After 0.5 hours the solution was dark blue. After refluxing for 5 days the mixture was cooled to rt and then diluted with 25 mL of 2 M HCl. The aqueous phase was extracted with 40 mL of ethyl acetate. The volatiles were removed from the extract by evaporation to give a white solid. C12H17Cl, fw=196.72. Yield 3.51 g, 95.6%. Mp: 39° C. (melt). 1H NMR (300 MHz, CDCl3): δ 7.01(s, 2H), 2.30 (s, 6H), 1.22 (s, Rf=0.69 (cyclohexane/silica).

reactant | 2-bromo-5-tert-butyl-1,3-dimethylbenzene | 18.6 mmol, 4.50 g | BrC1=C(C=C(C=C1C)C(C)(C)C)C | C12H17Br
reactant | HCl | 2 M, 25 mL | Cl | ClH
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-chloro-5-tert-butyl-1,3-dimethylbenzene | ClC1=C(C=C(C=C1C)C(C)(C)C)C | C12H17Cl
